US05246948
Synthesis of 4-[3-(3-quinolineacryloylamino)propylthio]pyridine
To a solution of 396 mg (1.64 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 0.27 ml (1.97 mmol) of triethylamine in 20 ml of methylene chloride, 500 mg (1.96 mmol) of 3-quinolineacryloyl chloride hydrochlride was added under ice-cooling with stirring. The mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with a saturated aqueous solution of sodium bicarbonate and water and dried, and then the solvent was distilled off. The residue was purified by column chromatography (eluent: methanol/ethyl acetate=1:10) to obtain powder. The powder was washed with ether and dried to obtain the desired compound (480 mg, yield: 83.8%, pale yellow powder).

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 1.64 mmol, 396 mg | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 1.97 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | 3-quinolineacryloyl chloride | 1.96 mmol, 500 mg | N1=CC(=CC2=CC=CC=C12)C=CC(=O)Cl | C12H8ClNO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(3-quinolineacryloylamino)propylthio]pyridine | 480 mg, yield: 83.8% | N1=CC(=CC2=CC=CC=C12)C=CC(=O)NCCCSC1=CC=NC=C1 | C20H19N3OS
